US06083959
To a mixture of 2,6-dichloro-1-mesyloxymethyl-3-(N-methyl-N-phthalimidoacetylamino)benzene (2.35 g), tetrabutylammonium iodide (123 mg) and molecular sieves 4A (340 mg) in N,N-dimethylformamide (38 ml) were added 8-hydroxy-4-(imidazol-1-yl)-2-methylquinoline (750 mg) and potassium carbonate (2.3 g) under ice-cooling, and the mixture was stirred for 15 minutes at the same temperature and overnight at ambient temperature. Water and chloroform were added thereto, and the separated organic layer was washed with water and brine, dried over magnesium sulfate and evaporated in vacuo. The residue was crystallized with ethyl acetate to give 8-[2,6-dichloro-3-(N-phthalimidoacetyl-N-methylamino)benzyloxy]-4-(imidazol-1-yl)-2-methylquinoline (1.92 g) as colorless crystals.

reactant | 2,6-dichloro-1-mesyloxymethyl-3-(N-methyl-N-phthalimidoacetylamino)benzene | 2.35 g | ClC1=C(C(=CC=C1N(C(CN1C(C=2C(C1=O)=CC=CC2)=O)=O)C)Cl)COS(=O)(=O)C | C19H16Cl2N2O6S
reactant | 8-hydroxy-4-(imidazol-1-yl)-2-methylquinoline | 750 mg | OC=1C=CC=C2C(=CC(=NC12)C)N1C=NC=C1 | C13H11N3O
reactant | potassium carbonate | 2.3 g | C([O-])([O-])=O.[K+].[K+]
reactant | Water | O | H2O
catalyst | tetrabutylammonium iodide | 123 mg | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | N,N-dimethylformamide | 38 ml | CN(C=O)C | C3H7NO
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 8-[2,6-dichloro-3-(N-phthalimidoacetyl-N-methylamino)benzyloxy]-4-(imidazol-1-yl)-2-methylquinoline | 1.92 g | ClC1=C(COC=2C=CC=C3C(=CC(=NC23)C)N2C=NC=C2)C(=CC=C1N(C)C(CN1C(C=2C(C1=O)=CC=CC2)=O)=O)Cl | C31H23Cl2N5O4
